US06500863B1
6-chloro-N-cyclopropylmethyl-2-hydroxy-3-nitrobenzenesulfonamide
Following the general hydrolysis procedure outlined in example 15, N-cyclopropylmethyl-2,6 dichloro-3-nitrobenzenesulfonamide (0.85 g, 2.6 mmol), 80% NaH (0.23 g, 9.88 mmol) and water (56 μL, 3.1 mmol) were reacted to form the desired product (0.58 g, 72%). LC-MS m/z 307 M+).

reactant | N-cyclopropylmethyl-2,6 dichloro-3-nitrobenzenesulfonamide | 2.6 mmol, 0.85 g | C1(CC1)CNS(=O)(=O)C1=C(C(=CC=C1Cl)[N+](=O)[O-])Cl | C10H10Cl2N2O4S
reactant | NaH | 9.88 mmol, 0.23 g | [H-].[Na+]
reactant | water | 3.1 mmol, 56 μL | O | H2O
product | 6-chloro-N-cyclopropylmethyl-2-hydroxy-3-nitrobenzenesulfonamide | 0.58 g, 72% | ClC1=CC=C(C(=C1S(=O)(=O)NCC1CC1)O)[N+](=O)[O-] | C10H11ClN2O5S
